US07947698B2
4-Nitrobenzylamine HCl (1.5 g), cyclopropanesulfonyl chloride (1 g) and triethylamine (3 mL) were dissolved in dichloromethane (20 mL). The reaction solution was stirred at rt overnight. The reaction mixture was diluted with 1N HCl aq. solution (50 mL) and water (100 mL). The solution was extracted with ethyl acetate (2×100 mL). The organic solution was evaporated to give N-cyclopropylsulfonyl-4-nitrobenzylamine. 1H NMR (DMSO-d6): δ 0.89 (d, J=7.8 Hz, 4H), 4.33 (d, J=6.6 Hz, 2H), 7.61 (d, J=8.7 Hz, 2H), 7.83 (t, J=6.6 Hz, 1H), 8.20 (d, J=8.7 Hz, 2H).

reactant | 4-Nitrobenzylamine HCl | 1.5 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | cyclopropanesulfonyl chloride | 1 g | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | HCl | 1N, 50 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
product | N-cyclopropylsulfonyl-4-nitrobenzylamine | C1(CC1)S(=O)(=O)NCC1=CC=C(C=C1)[N+](=O)[O-] | C10H12N2O4S
